US05397690
1,2,3,3-Tetramethyl-1H-benzindolium p-toluenesulfonate
N-[5-(Phenylamino)-2-hydroxy-2,5-pentadienylidene]aniline monohydrochloride (15.0 g, 0.05 mol), 7-sulfo-2,3,3-trimethyl-(4-sulfobutyl)-1H-benzindolium, inner salt [NKX-1632 from the Japanese Institute of Photosensitizing Dyes], (41.3 g, 0.1 mol) and 300 ml acetic anhydride were stirred together at ambient temperature. Triethylamine (20.2 g, 0.2 mol) was added and the mixture was stirred 80 minutes at ambient temperature. The mixture was filtered and poured into 2000 ml stirred ethyl acetate. The ethyl acetate was filtered away and the solid reslurried twice in ethyl acetate. After filtering and vacuum drying, the yield was 61.79 g of dye, mp 177°-195° C., λmax (methanol)=789 nm (ε=215,000).

reactant | 7-sulfo-2,3,3-trimethyl-(4-sulfobutyl)-1H-benzindolium | S(=O)(=O)(O)C=1C=CC=2C(=CC=C3C(C([NH+](C23)CCCCS(=O)(=O)O)C)(C)C)C1
reactant | Triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
solvent | acetic anhydride | 300 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,2,3,3-Tetramethyl-1H-benzindolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[NH+]1C(C(C2=CC=C3C(=C12)C=CC=C3)(C)C)C | InChI=1S/C16H19N.C7H8O3S/c1-11-16(2,3)14-10-9-12-7-5-6-8-13(12)15(14)17(11)4;1-6-2-4-7(5-3-6)11(8,9)10/h5-11H,1-4H3;2-5H,1H3,(H,8,9,10)
